US07504410B2
19e) Phenylmethyl[3-[[5-[[[(1,1-dimethylethyl)dimethylsilyl]oxy]methyl]-2-[(3-nitrophenyl)amino]pyrimidin-4-yl]amino]propyl]carbamate
A DMF solution (5 ml) of phenylmethyl [3-[[5-(hydroxymethyl)-2-[(3-nitrophenyl)amino]pyrimidin-4-yl]amino]propyl]carbamate (250 mg), chloro(1,1-dimethylethyl)dimethylsilane (190 mg) and 1H-imidazole (170 mg) was stirred at room temperature (48 h). After addition of ice water the mixture was extracted with ethyl acetate. The organic layer was washed with water, brine, dried (Na2SO4), filtered and evaporated. Trituration of the residue with diethyl ether yielded the title compound (300 mg).

reactant | phenylmethyl [3-[[5-(hydroxymethyl)-2-[(3-nitrophenyl)amino]pyrimidin-4-yl]amino]propyl]carbamate | 250 mg | OCC=1C(=NC(=NC1)NC1=CC(=CC=C1)[N+](=O)[O-])NCCCNC(OCC1=CC=CC=C1)=O | C22H24N6O5
reactant | chloro(1,1-dimethylethyl)dimethylsilane | 190 mg | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
reactant | 1H-imidazole | 170 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Phenylmethyl[3-[[5-[[[(1,1-dimethylethyl)dimethylsilyl]oxy]methyl]-2-[(3-nitrophenyl)amino]pyrimidin-4-yl]amino]propyl]carbamate | 300 mg | C1(=CC=CC=C1)COC(NCCCNC1=NC(=NC=C1CO[Si](C)(C)C(C)(C)C)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C28H38N6O5Si
